US07960409B2
Step 6: 7-(hydroxymethyl)-4-(2-methyl-1,3-thiazol-4-yl)-2H-chromen-2-one
To a solution of 4-(2-methyl-1,3-thiazol-4-yl)-2-oxo-2H-chromene-7-carboxylic acid (250 mg, 0.87 mmol) in THF (10 mL) triethylamine (0.31 mL, 2.18 mmol) was added. The mixture was stirred until it became a clear solution. The reaction was then cooled to 0° C. and isobutylchloroformate was added dropwise (230 uL, 1.74 mmol). After 1 hour stirring at 0° C. a solution of sodium borohydride in water (132 mg, 3.48 mmol in 3.5 mL) was added slowly and the mixture was stirred for another hour. The reaction mixture was quenched with a saturated ammonium chloride solution and the product was extracted with ethyl acetate. The combined organic extracts were washed with water and brine, dried over MgSO4, filtered and concentrated under reduced pressure. The crude residue obtained was used as such for the next step. 1H NMR (400 MHz, acetone-d6): 8.26 (d, 1H), 8.07 (s, 1H), 7.42 (s, 1H), 7.35 (d, 1H), 6.64 (s, 1H), 4.80 (d, 2H), 4.56 (t, 1H), 2.85 (s, 3H).

reactant | 4-(2-methyl-1,3-thiazol-4-yl)-2-oxo-2H-chromene-7-carboxylic acid | 0.87 mmol, 250 mg | CC=1SC=C(N1)C1=CC(OC2=CC(=CC=C12)C(=O)O)=O | C14H9NO4S
reactant | THF | 2.18 mmol, 10 mL | C1CCOC1 | C4H8O
reactant | isobutylchloroformate | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | sodium borohydride | [BH4-].[Na+]
reactant | water | 3.48 mmol, 3.5 mL, 132 mg | O | H2O
product | 7-(hydroxymethyl)-4-(2-methyl-1,3-thiazol-4-yl)-2H-chromen-2-one | OCC1=CC=C2C(=CC(OC2=C1)=O)C=1N=C(SC1)C | C14H11NO3S
